US08461179B1
To a solution of 3-(5-amino-2-chloro-4-fluorophenyl)-1-ethyl-7-(2-(methylthio)ethylamino)-1,6-naphthyridin-2(1H)-one (400 mg, 0.99 mmol) in DCM (20 mL) was added phenyl isocyanate (200 mg, 1.68 mmol) and the mixture was stirred overnight. The reaction mixture was quenched with MeOH and concentrated under reduced pressure. The residue was washed with Et2O to give 1-(4-chloro-5-(1-ethyl-7-(2-(methylthio)ethylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-phenylurea (200 mg, 39% yield).

reactant | 3-(5-amino-2-chloro-4-fluorophenyl)-1-ethyl-7-(2-(methylthio)ethylamino)-1,6-naphthyridin-2(1H)-one | 0.99 mmol, 400 mg | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NCCSC)CC)=O)Cl)F | C19H20ClFN4OS
reactant | phenyl isocyanate | 1.68 mmol, 200 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chloro-5-(1-ethyl-7-(2-(methylthio)ethylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-phenylurea | 200 mg, 39% yield | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NCCSC)CC)=O)NC(=O)NC1=CC=CC=C1)F | C26H25ClFN5O2S
